US06166041
Preparation of 2-amino-4-chloro-6-[2-(pyridin-2-yl)ethyl]phenol
To a vigorously stirred suspension of Raney Nickel (3.5 g of a 50% slurry in water, washed with ethanol then EtOAc) in EtOAc (20 ml) is added 4-chloro-2-nitro-6-[2-(pyridin-2-yl)ethyl]phenol (2.09 g, 7.50 mmole) in EtOAc (10 ml). The solution is stirred vigorously overnight under an atmosphere of hydrogen. After this time no starting material is visible by TLC analysis. The solution is decanted from the Raney Nickel. The Raney Nickel was washed several times with EtOAc and the washings combined with the reaction mixture solution. Concentration in vacuo yielded a brown oil which is purified by flash chromatography (SiO2 ; 30% EtOAc in hexane) to yield a pale orange oil (1.88 g, 100%). This was recrystallised from EtOAc/pentane to give the title compound as a pale yellow crystalline solid (1.55 g, 83%), m.p. 91-92° C. dH (250 MHz, CDCl3) 11.5 (bs, 1H), 8.49 (dd, J=5.6, 2.0 Hz, 1H), 7.63 (dt, J=7.7, 1.7 Hz, 1H ), 7.20-7.16 (m, 2H), 6.54 (d, J=2.5 Hz, 2H), 3.84 (bs, 2H ), 3.30-3.25 (m, 2H ), 3.06-3.02 (m, 2H).

reactant | 4-chloro-2-nitro-6-[2-(pyridin-2-yl)ethyl]phenol | 7.50 mmole, 2.09 g | ClC1=CC(=C(C(=C1)CCC1=NC=CC=C1)O)[N+](=O)[O-] | C13H11ClN2O3
catalyst | Raney Nickel | [Ni] | Ni
solvent | water | O | H2O
solvent | EtOAc | 20 ml | CCOC(=O)C | C4H8O2
solvent | EtOAc | 10 ml | CCOC(=O)C | C4H8O2
product | 2-amino-4-chloro-6-[2-(pyridin-2-yl)ethyl]phenol | 1.88 g, 100% | NC1=C(C(=CC(=C1)Cl)CCC1=NC=CC=C1)O | C13H13ClN2O
